US07691881B2
1(6) Ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in 1(5) (3.0 g, 13.44 mmol) and N-chlorosuccinimide (1.79 g, 13.44 mmol) in N,N-dimethylformamide (27 mL) was stirred at room temperature for 16 h, and the solvent was removed in vacuo. The residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (v/v=2/1˜1/1) to give 3.19 g (92%) of the title compound as brown oil.

reactant | ethyl 1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | C(C)(C)N1C(C(=CC=C1C)C(=O)OCC)=O | C12H17NO3
reactant | N-chlorosuccinimide | 13.44 mmol, 1.79 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 27 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 3.19 g, 92% | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16ClNO3
